US09359362B2
(rac)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carbonitrile
The reaction was carried out under argon. (rac)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxamide (10 mg, 24 μmol; prepared analogously to Example 72/73 from Example 70) was initially charged in dry THF (0.6 ml), methoxycarbonylsulfamoyltriethylammonium hydroxide (Burgess reagent; 22 mg, 94 μmol, 4 eq.) was added and the mixture was stirred at RT for 1 h. HPLC showed complete conversion. The reaction mixture was then concentrated and the residue was purified by preparative HPLC (Gromsil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The title compound was obtained as a solid (8.3 mg, 87% of theory).

reactant | (rac)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxamide | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)N | C20H14F3N7O
reactant | methoxycarbonylsulfamoyltriethylammonium hydroxide | 94 μmol, 22 mg, 4 eq. | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | THF | 0.6 ml | C1CCOC1 | C4H8O
product | (rac)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C#N | C20H12F3N7
